US06346625B1
a) [1-Carbamoyl-2-(3-indolyl)-ethyl]-carbamic acid benzyl ester
To a solution of 8.35 g (0.21 mol) NaOH in 100 ml of water was added 200 ml of THF followed by 25.0 g (0.104 mol) of L-tryptophanamide hydrochloride. The mixture was cooled on ice and 19.6 g (0.114 mol) of benzylchloroformate was added under vigorous stirring during 5 minutes. The ice bath was removed and the mixture was stirred for 1 hour.

reactant | NaOH | 0.21 mol, 8.35 g | [OH-].[Na+]
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | L-tryptophanamide hydrochloride | 0.104 mol, 25.0 g | Cl.N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N
reactant | benzylchloroformate | 0.114 mol, 19.6 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | water | 100 ml | O | H2O
product | [1-Carbamoyl-2-(3-indolyl)-ethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(CC1=CNC2=CC=CC=C12)C(N)=O)=O | C19H19N3O3
